US07291631B2
To a suspension of crushed and dried 3A molecular sieves (1.0393 g) in DMF (15 mL) was added cesium hydroxide monohydrate (0.6272 g, 3.7 mmol) and DMAP (0.0366 g, 0.3 mmol), and the mixture was stirred at room temperature for 15 minutes. To this was added 1-pyridin-2-yl-ethylamine (0.4168 g, 3.4 mmol) in DMF (10 mL), and was stirred for 30 minutes. Then 2-chloromethyl-benzoimidazole-1-carboxylic acid tert-butyl ester (1.1050 g, 4.1 mmol) was added and the reaction was stirred at room temperature for 19 hours. The reaction mixture was filtered with CH2Cl2, concentrated, and diluted with 1N NaOH (75 mL) and CH2Cl2 (100 mL). The layers were separated and the aqueous phase was extracted with CH2Cl2 (4×150 mL). The combined organic layers were washed with brine (1×100 mL), dried (Na2SO4), and concentrated. Purification of the crude material by column chromatography on silica gel (33:1:1 CH2Cl2-MeOH—NH4OH) provided 0.7260 g (61%) of 2-[(1-pyridin-2-yl-ethylamino)-methyl]-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester as an orange oil. 1H NMR (CDCl3) δ 1.47 (d, 3H, J=6.0 Hz), 1.66 (s, 9H), 2.92 (d, 2H, J=31.0 Hz), 4.00-4.07 (m, 1H), 4.13-4.29 (m, 1H), 7.03-7.04 (m, 1H), 7.27-7.33 (m, 3H), 7.48-7.55 (m, 1H), 7.65-7.70 (m, 1H), 7.82-7.86 (m, 1H), 8.48 (d, 1H, J=4.8 Hz).

reactant | cesium hydroxide monohydrate | 3.7 mmol, 0.6272 g | O.[OH-].[Cs+]
reactant | 1-pyridin-2-yl-ethylamine | 3.4 mmol, 0.4168 g | N1=C(C=CC=C1)C(C)N | C7H10N2
reactant | 2-chloromethyl-benzoimidazole-1-carboxylic acid tert-butyl ester | 4.1 mmol, 1.1050 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCl | C13H15ClN2O2
catalyst | DMAP | 0.3 mmol, 0.0366 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[(1-pyridin-2-yl-ethylamino)-methyl]-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.7260 g, 61% | C(C)(C)(C)OC(=O)N1C(NC2=C1C=CC=C2)CNC(C)C2=NC=CC=C2 | C20H26N4O2
